US04742052
A mixture of 3-(4-t-butyloxycarbonylphenyl)acrylic acid ethyl ester (11.52 g) and 5% palladium-charcoal in ethanol (115 ml) was stirred under hydrogen atmosphere at room temperature. The catalyst was removed by filtration and washed with ethanol. The combined solution was evaporated to give 3-(4-tert-butyloxycarbonylphenyl)propionic acid ethyl ester.

reactant | 3-(4-t-butyloxycarbonylphenyl)acrylic acid ethyl ester | 11.52 g | C(C)OC(C=CC1=CC=C(C=C1)C(=O)OC(C)(C)C)=O | C16H20O4
solvent | ethanol | 115 ml | C(C)O | C2H6O
catalyst | palladium-charcoal | [Pd] | Pd
product | 3-(4-tert-butyloxycarbonylphenyl)propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)C(=O)OC(C)(C)C)=O | C16H22O4
